US07790720B2
A solution of lithium hydroxide hydrate (0.76 g, 18.11 mmol, 2 eq) in water (10 ml) is added to a solution of methyl {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetate ax62 (2.8 g, 9.06 mmol, 1 eq) in tetrahydrofuran (100 ml). The mixture is stirred at room temperature for 1 h. The mixture is then poured into water and extracted with diethyl ether (2×75 ml). The aqueous layer is acidified with 6 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated under vacuum to give 2.1 g of {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetic acid ax63 as a brown solid.

reactant | lithium hydroxide hydrate | 18.11 mmol, 0.76 g, 2 eq | O.[OH-].[Li+]
reactant | methyl {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetate | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CC(=O)OC | C15H16ClNO4
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetic acid | 2.1 g, Yield: 81% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CC(=O)O | C14H14ClNO4
